US04017620
To a solution of 0.86 g. of 6-(2-chlorophenyl)-8-ethyl-4-hydroxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]-diazepine-2-carboxamide in 20 ml. of methanol is added one drop of concentrated sulfuric acid. The resulting mixture is refluxed for 5 minutes. After evaporation of the solvent a saturated sodium hydrogen carbonate solution is added to the residue, and the resulting precipitate is collected by filtration to give 6-(2-chlorophenyl)-8-ethyl-4-methoxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide as crystals melting at 200° to 201° C. This product is identical with the product obtained in Example 3 with respect to the melting point and infra red absorption spectrum thereof.

reactant | 6-(2-chlorophenyl)-8-ethyl-4-hydroxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]-diazepine-2-carboxamide | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)N=C(N2)C(=O)N)O | C17H14ClN5O2S
reactant | methanol | CO | CH4O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 6-(2-chlorophenyl)-8-ethyl-4-methoxy-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxamide | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)N=C(N2)C(=O)N)OC | C18H16ClN5O2S
